US05693811
Platinum (IV) oxide (0.3 g) was added to a suspension of 4-amino-2-butyl-α,α,-dimethyl-1H-imidazo[4,5-c]quinoline-1-ethanol (1.0 g, 3.2 mmole) in trifluoroacetic acid (20 mL). The mixture was hydrogenated at 50 psi (3.44×105Pa) for 3 days. The reaction mixture was filtered to remove the catalyst then concentrated under vacuum. The resulting residue was covered with water and aqueous sodium bicarbonate. A white solid was isolated by filtration then recrystallized for ethyl acetate. The reaction was repeated using 1.5 g of starting material. The combined products were taken up in dichloromethane, washed with 10% sodium hydroxide, dried over magnesium sulfate, then concentrated under vacuum. The material was recrystallized from ethyl acetate then from toluene to provide 1.15 g of crude product. This material was dissolved in methanol then combined first with one equivalent of hydrochloride acid then with diethyl ether. The resulting salt was converted back to the free base then purified by silica gel column chromatography diluting with 10% methanol in ethyl acetate. The resulting material was recrystallized from toluene then dried under vacuum at 110° C. to provide 0.7 g of 4-amino-2-butyl-α,α,-dimethyl-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinoline-1-ethanol as a solid, m.p. 160°-161.5° C. Analysis: Calculated for C18H28N4O: % C, 68.32; % H, 8.92; % N, 17.70; % C, 67.96; % H, 89.95; % N, 17.48.

reactant | 4-amino-2-butyl-α,α,-dimethyl-1H-imidazo[4,5-c]quinoline-1-ethanol | 3.2 mmole, 1.0 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(O)(C)C)CCCC | C18H24N4O
reactant | hydrochloride | one equivalent | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | CO | CH4O
catalyst | Platinum (IV) oxide | 0.3 g | [Pt](=O)=O
product | 4-amino-2-butyl-α,α,-dimethyl-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinoline-1-ethanol | 0.7 g | NC1=NC=2CCCCC2C2=C1N=C(N2CC(O)(C)C)CCCC | C18H28N4O
